US08455528B2
Methyl 4-(bromoacetyl)benzoate
4-(Bromoacetyl)benzoic acid (10 g, 41.3 mmol) was dissolved in 75 mL of MeOH and 75 mL of methylene chloride. Trimethylsilyl diazomethane (2.0 M in ether) was slowly added at 0° C. until a yellow color persisted. The volatiles were evaporated to give the title compound. 1H NMR (500 MHz, (CD3OD): 8.18 (d, 2H), 8.16 (d, 2H), 4.68 (s, 2H), 3.96 (s, 3H). LCMS: m/z 258 (M+H)+.

reactant | 4-(Bromoacetyl)benzoic acid | 41.3 mmol, 10 g | BrCC(=O)C1=CC=C(C(=O)O)C=C1 | C9H7BrO3
reactant | Trimethylsilyl diazomethane | 2.0 M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | MeOH | 75 mL | CO | CH4O
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | Methyl 4-(bromoacetyl)benzoate | BrCC(=O)C1=CC=C(C(=O)OC)C=C1 | C10H9BrO3
